US06727244B2
Step B: 4-Fluorophenylglyoxal hydrate
The title compound was prepared using essentially the same procedure as described by H. A. Riley and A. R. Gray in Organic Synthesis, Collective Volume II, p. 509 for the preparation of phenylglyoxal hydrate, but using 4′-fluoroacetophenone in place of acetophenone.

reactant | phenylglyoxal hydrate | O.C1(=CC=CC=C1)C(=O)C=O
reactant | 4′-fluoroacetophenone | FC1=CC=C(C=C1)C(C)=O | C8H7FO
product | 4-Fluorophenylglyoxal hydrate | O.FC1=CC=C(C=C1)C(=O)C=O | InChI=1S/C8H5FO2.H2O/c9-7-3-1-6(2-4-7)8(11)5-10;/h1-5H;1H2
